US07217722B2
4-Amino-m-cresol is suspended in acetic anhydride and chlorobenzene in the presence of potassium acetate, isoamyl nitrate is added to the suspension at 70° C. to 100° C., preferably about 80° C., and the mixture is stirred to form an indazole skeleton. The intermediate thus obtained is dissolved in hydrochloric acid-methanol, and the mixture is preferably stirred at room temperature to deacetylate the compound.

reactant | 4-Amino-m-cresol | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrate | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
